US09169254B2
HATU (57 mg, 0.149 mmol) was added to a solution of 12-hydroxy-dodecanoic acid (33 mg, 0.149 mol), 4-amino-1-[(E)-2-(2,6-dimethyl-4-methylamino-phenyl)-ethenesulfonyl]-piperidine-4-carboxylic amide (50 mg, 0.136 mmol) and diisopropylethylamine (71 μL, 0.47 mmol) in DMF (1.3 ml) at 0° C., and the mixture was stirred at room temperature for 1.5 hours. Ethanol (2.6 ml) and potassium t-butoxide (76 mg, 0.678 mmol) were added to the reaction mixture, and the mixture was heated with stirring at 70° C. for three hours. The reaction mixture was quenched with a saturated aqueous ammonium chloride solution, and water was then added, followed by extraction with ethyl acetate. The organic layer was sequentially washed with water and saturated brine, and then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane-methanol) to give 8-[(E)-2-(2,6-dimethyl-4-methylamino-phenyl)-ethenesulfonyl]-2-(11-hydroxy-undecyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (58.7 mg, 79%).

reactant | HATU | 0.149 mmol, 57 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 12-hydroxy-dodecanoic acid | 0.149 mol, 33 mg | OCCCCCCCCCCCC(=O)O | C12H24O3
reactant | 4-amino-1-[(E)-2-(2,6-dimethyl-4-methylamino-phenyl)-ethenesulfonyl]-piperidine-4-carboxylic amide | 0.136 mmol, 50 mg | NC1(CCN(CC1)S(=O)(=O)\C=C\C1=C(C=C(C=C1C)NC)C)C(=O)N | C17H26N4O3S
reactant | diisopropylethylamine | 0.47 mmol, 71 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium t-butoxide | 0.678 mmol, 76 mg | CC(C)([O-])C.[K+]
solvent | DMF | 1.3 ml | CN(C)C=O | C3H7NO
solvent | Ethanol | 2.6 ml | C(C)O | C2H6O
product | 8-[(E)-2-(2,6-dimethyl-4-methylamino-phenyl)-ethenesulfonyl]-2-(11-hydroxy-undecyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 58.7 mg, 79% | CC1=C(C(=CC(=C1)NC)C)/C=C/S(=O)(=O)N1CCC2(C(NC(=N2)CCCCCCCCCCCO)=O)CC1 | C29H46N4O4S
